US07745477B2
e) Preparation of (4-tert-butyl-benzyl)-[2-(3-ethyl-phenyl)-ethyl]-amine
To a solution of (4-tert-butyl-benzyl)-[2-(3-ethyl-phenyl)-ethyl]-carbamic acid tert-butyl ester 66 mg, 0.166 mmol) in DCM (1 ml) was added trifluoroacetic acid (128 μl, 1.668 mmol) at 0° C. The reaction mixture was allowed to warm to RT and was stirred over night. The mixture was then basified with 1 N NaOH and extracted with DCM. The combined extracts were dried (Na2SO4) and evaporated to obtain the title compound as a colorless gum (45 mg, 92%). MS (ISP) 296.5 (M+H)+.

reactant | (4-tert-butyl-benzyl)-[2-(3-ethyl-phenyl)-ethyl]-carbamic acid tert-butyl ester | 0.166 mmol, 66 mg | C(C)(C)(C)OC(N(CCC1=CC(=CC=C1)CC)CC1=CC=C(C=C1)C(C)(C)C)=O | C26H37NO2
reactant | trifluoroacetic acid | 1.668 mmol, 128 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | (4-tert-butyl-benzyl)-[2-(3-ethyl-phenyl)-ethyl]-amine | 45 mg, 92% | C(C)(C)(C)C1=CC=C(CNCCC2=CC(=CC=C2)CC)C=C1 | C21H29N
